US04591590
To a solution of 1-(3-aminopropyl)-4-benzhydrylpiperazine (1.55 g) and triethylamine (0.7 ml) in chloroform (15 ml) was dropwise added p-methoxybenzoyl chloride (0.85 g) at ambient temperature with stirring, which was continued for 20 minutes. The reaction mixture was washed successively with aqueous sodium bicarbonate and water. The organic layer was separated, dried and evaporated in vacuo. The resultant oily product was subjected to column chromatography on silica gel eluting with ethyl acetate. The fractions containing the desired compound were combined and evaporated in vacuo. The residue was crystallized from a mixture of ethyl acetate and hexane to give 1-[3-(4-methoxybenzoylamino)propyl]-4-benzhydrylpiperazine (1.1 g) as white crystals. mp: 126°-128° C.

reactant | 1-(3-aminopropyl)-4-benzhydrylpiperazine | 1.55 g | NCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H27N3
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | p-methoxybenzoyl chloride | 0.85 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[3-(4-methoxybenzoylamino)propyl]-4-benzhydrylpiperazine | 1.1 g | COC1=CC=C(C(=O)NCCCN2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C28H33N3O2
